US08258130B2
A solution of 5-fluoro-1H-indole-3-sulfonic acid dimethylamide (1.24 g) in dry DMF (50 mL) is cooled to 0° C. and treated portion wise with 60% MaH oil dispersion (3.07 g). The mixture is stirred at 0° C. for 30 min. Hydroxylamine-O-sulfonic acid (2.9 g) is added portion wise and the mixture is warmed to rt and stirred for 5 h. The reaction mixture is poured onto ice/water and extracted with EtOAc. The organic layer is separated, washed water and brine, dried (MgSO4) filtered and concentrated in vacuo. The residue is triturated with ether. The solid is collected by filteration to afford 1-amino-5-fluoro-1H-indole-3-sulfonic acid dimethylamide (0.53 g, 41%). MS: 258 (M+H).

reactant | 5-fluoro-1H-indole-3-sulfonic acid dimethylamide | 1.24 g | CN(S(=O)(=O)C1=CNC2=CC=C(C=C12)F)C | C10H11FN2O2S
reactant | Hydroxylamine-O-sulfonic acid | 2.9 g | NOS(=O)(=O)O | H3NO4S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-amino-5-fluoro-1H-indole-3-sulfonic acid dimethylamide | 0.53 g, 41% | CN(S(=O)(=O)C1=CN(C2=CC=C(C=C12)F)N)C | C10H12FN3O2S
